US05789406
0.76 g of 5-trifluoromethoxy-2-(2-ethoxycarbonyl-1H-imidazol-1-yl)indanone and 19 g of ammonium acetate in 30 ml of acetic acid are heated at reflux for 45 minutes. After cooling to a temperature in the region of 20° C., the precipitate formed is filtered, washed with water and dried under reduced pressure (1 mm Hg, 0.13 kPa) at 40° C. There is obtained 0.5 g of 8-trifluoromethoxy-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one in the form of a beige powder, the melting point of which is greater than 260° C. (Analysis C14H8F3N3O2.0.9AcOH, % calculated C: 54.73, H: 2.62, F: 18.55, N: 13.68, % found C: 55.0, H: 2.6, F: 18.3, N: 13.8).

reactant | 5-trifluoromethoxy-2-(2-ethoxycarbonyl-1H-imidazol-1-yl)indanone | 0.76 g | FC(OC=1C=C2CC(C(C2=CC1)=O)N1C(=NC=C1)C(=O)OCC)(F)F | C16H13F3N2O4
reactant | ammonium acetate | 19 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 8-trifluoromethoxy-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 0.5 g | FC(OC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)(F)F | C14H8F3N3O2
